Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
thrombocytopenia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old man with PMH of CAD s/p stent, MI, left carotid 
endarectomy, is referred to ___ for thrombocytopenia due to 
Dengue Fever. Patient was in the ___ for the last 
few months and arrived in the ___ 3 days ago. The last 3 days 
while in the ___ ___ fevers, chills, body aches and profuse 
diarrhea. Went to the hospital in the ___ ___ an 
injection, but does not know of what. He was bitten multiple 
times by mosquitos while there. By the time he arrived in the 
___, he felt well and was no longer having symptoms. He went to 
his PCP who reportedly tested him for Dengue and per patient 
report was positive. PCP is not in our system and do not have 
access to medical records. Other labs showed thrombocytopenia 
and patient was sent to the ED.

In the ED, initial vitals were:  
 - Labs were significant for 97.8 51 155/79 18 100% RA  
 - Imaging revealed Left infrahilar opacity, in the appropriate 
clinical setting, could be consistent with pneumonia.  
 - The patient was given levofloxacin IV  

Upon arrival to the floor he states that he has no symptoms or 
signs of bleeding. Levofloxacin stopped. Patient reports having 
had Dengue fever one time in the past, that self resolved. He 
denies headaches, vision changes, shortness of breath, chest 
pain, abdominal pain, abdominal swelling, lower extremity 
swelling. Denies any rashes or bruising of his skin. Doesn't 
think that he needs to be in the hospital. Would like to go 
home. 

 
Past Medical History:
 CAD  
 MI  
 Left Carotid endarectomy  
 HLD  
 Left BKA due to accident in ___  
 
___:
___
Family History:
No family history of bleeding disorders.  
 
Physical Exam:
==================
ADMISSION EXAM:
==================
 Vitals: 97.7 137/90 57 18 96%RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation  

==================
DISCHARGE EXAM:
==================
VITALS:  98, 132/43, 47, 16, 99RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated 
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: bradycardic, normal S1 + S2, no murmurs, rubs, gallops  
ABD: +BS, soft, nondistended, nontender to palpation. No 
hepatomegaly.  
GU: no foley  
EXT: right leg with BKA, incision well healed. Extremities warm, 
well perfused, 2+ pulses in left DP, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal
SKIN: No evidence of ecchymosis, petechiae anywhere on body.    
 
Pertinent Results:
==================
ADMISSION LABS:
==================

___ 06:35PM   WBC-7.2 RBC-4.56* HGB-13.5* HCT-41.8 MCV-92 
MCH-29.6 MCHC-32.3 RDW-14.3 RDWSD-47.8*
___ 06:35PM   NEUTS-35.0 ___ MONOS-13.4* EOS-3.8 
BASOS-0.6 IM ___ AbsNeut-2.50 AbsLymp-3.32 AbsMono-0.96* 
AbsEos-0.27 AbsBaso-0.04
___ 06:35PM   PLT SMR-LOW PLT COUNT-99*
___ 06:35PM   ___ PTT-31.4 ___
___ 06:35PM   ALT(SGPT)-57* AST(SGOT)-52* ALK PHOS-121 TOT 
BILI-0.3
___ 06:35PM   LIPASE-72*
___ 06:35PM   ALBUMIN-3.4* CALCIUM-9.1 PHOSPHATE-2.9 
MAGNESIUM-1.9
___ 06:57PM   LACTATE-2.1*
___ 06:35PM   GLUCOSE-90 UREA N-16 CREAT-1.1 SODIUM-141 
POTASSIUM-4.8 CHLORIDE-104 TOTAL CO2-30 ANION GAP-12

==================
DISCHARGE LABS:
==================

___ 06:51AM BLOOD WBC-6.0 RBC-4.75 Hgb-13.7 Hct-42.8 MCV-90 
MCH-28.8 MCHC-32.0 RDW-14.3 RDWSD-46.7* Plt ___
___ 06:51AM BLOOD Glucose-87 UreaN-14 Creat-0.9 Na-138 
K-4.8 Cl-104 HCO3-25 AnGap-14
___ 06:51AM BLOOD ALT-48* AST-39 AlkPhos-112 TotBili-0.3
___:51AM BLOOD Calcium-8.7 Phos-2.3* Mg-1.8

===========
IMAGING:
===========
RUQ US ___: Normal abdominal ultrasound.

CXR ___: Streaky perihilar opacities, left greater than 
right may represent an atypical infection though clinical 
correlation is advised.  A nonemergent CT may be performed to 
further evaluate. 
 
Brief Hospital Course:
___ with history of CAD s/p PCI, hx of Dengue fever, presents 
with reported Dengue and thrombocytopenia, transaminitis. 

# Dengue Fever, complicated by Thrombocytopenia and 
transaminitis: Patient recently returned from prolonged stay in 
the ___. Reports having 3 days of fever there, 
was evaluated in ___ ___ unknown injection. No longer 
having fevers. Sent in to ED for thrombocytopenia. At this 
point, patient appears clinically stable with no signs of end 
organ damage or hemorrhage. No evidence to support hemorrhagic 
dengue fever. Only concerning feature is that patient reports 
having Dengue in the past. RUQ US normal.  LFTs somewhat 
normalized on repeat labs. Platelets improved, no signs of 
anemia -- no ecchymosis or petichiae on exam. Remained afebrile 
overnight. Patient felt well and wanted to go home. Since no 
signs of concerning features of Dengue, patient discharged and 
instructed to call PCP to make follow up appointment and have 
labs checked on ___ to monitor thrombocytopenia and 
transaminitis. Instructed to return to the hospital for evidence 
of bleeding, bruising, petechial rash. 

# Abnormal CXR finding: CXR in ED showed streaky perihilar 
opacities that could represent atypical infection. Patient has 
no shortness of breath, no sputum, no cough. Did have fever in 
setting of diagnosis of dengue fever, which has since resolved. 
Given levofloxacin in the ED, but clinically does not appear to 
have pneumonia and antibiotics stopped. He will require follow 
up with PCP and nonemergent CT scan to further evaluate. 

CHRONIC ISSUES:
#CAD: continued home ___, metop, atorvastatin  

# Left carotid endarterectomy: continued aspirin, ___, 
atorvastatin

# Chronic pain secondary to right BKA: unable to confirm exact 
dosages of home medications. Based on OMR history records, 
should be on oxycodone-acetaminophen ___ q6h prn pain; 
gabapentin 800mg TID. Told patient to continue home medications. 


# Insomnia: cont trazodone 100mg daily

# GERD: continue omeprazole 40mg daily 

===========================
TRANSITIONAL ISSUES:
===========================
- Patient needs repeat CBC and LFTs on ___ to 
monitor thrombocytopenia and transaminitis
- No signs of hemorrhage on exam, patient given specific 
instructions of signs to return to the ED
- Unable to confirm home medications completely, but no changes 
made to medications. Please review home medications and 
encourage patient to have a list of medications with him at all 
time. 
- Incidental finding: Streaky perihilar opacities, left greater 
than right may represent an atypical infection though clinical 
correlation is advised. A nonemergent CT may be performed to 
further evaluate.
- if hasn't been done, consider HIV test for fevers
- FULL CODE
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 10 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Gabapentin 800 mg PO TID 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Paroxetine 20 mg PO DAILY 
6. Aspirin 325 mg PO DAILY 
7. TraZODone 100 mg PO QHS 
8. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H:PRN pain 
9. Omeprazole 40 mg PO DAILY 
10. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
Unable to confirm home dose. Please confirm prior to giving new 
script.  
3. Clopidogrel 75 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. TraZODone 100 mg PO QHS 
6. Loratadine 10 mg PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO Q6H:PRN pain 
Unable to confirm home dose. Please confirm prior to giving new 
script.  
9. Paroxetine 20 mg PO DAILY 
10. Gabapentin 800 mg PO TID 
Unable to confirm home dose. Please confirm prior to giving new 
script.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Dengue Fever
Thrombocytopenia
Transaminitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of ___ at ___. 
___ were sent to the hospital for low platelet levels thought to 
be due to your Dengue fever. The concern was that some people 
with Dengue Fever are at risk for bleeding. However, ___ have no 
signs of bleeding on exam and your platelet levels improved. 

It is important that ___ have repeat labs drawn on ___ 
___ to monitor your platelet levels. ___ should call 
your doctor to make an appointment. 

Please return to the hospital if ___ have any concerning signs 
of bleeding, bruising, rashes, as it may be a serious 
complication of your Dengue Fever. 

Also, your primary care doctor ___ evaluate ___ for any signs 
of pneumonia, as your XRAY showed a possible pneumonia. 

We wish ___ the best of health, 

Your medical team at ___ 

___ ___, 

Usted fue ___ hospital para niveles bajos de plaquetas 
porque tiene ___ del dengue. ___ preocupación era ___ algunas 
personas con ___ del dengue están ___ de sangrado. 
Ahora, usted no tiene signos de sangrado en el examen y sus 
niveles de plaquetas mejoradas.

Es importante ___ usted tenga mas laboratorios en lunes para 
monitar sus niveles de ___. Usted debe ___ médico 
para hacer una cita.

Por favor ___ hospital si tiene alguna concerniente 
signos de sangrado, moretones, erupciones del ___ puede 
ser una complicación grave ___ del dengue.

Además, ___ médico primaria lo evaluará para detectar cualquier 
signo de neumonía, como ___ mostró una posible neumonía.

___, 

Sus medicos ___ Deaconess
 
Followup Instructions:
___